* V2 first silicon-process transistor prototype; NOT a qualified final design.
* Four-terminal MOS instances use actual SKY130 1.8 V standard-Vt models.
* R/C parts in this revision are IDEAL electrical components, not layout cells.
* Pin order: INP INN OUTP OUTN VDD VSS VCM
* No external ideal reference current is used.
.subckt sky130_v2_frontend INP INN OUTP OUTN VDD VSS VCM

* Self-biased beta-multiplier. Startup removes the zero-current equilibrium.
XBP1 BP BP VDD VDD sky130_fd_pr__pfet_01v8 L=1 W=10
XBP2 BN BP VDD VDD sky130_fd_pr__pfet_01v8 L=1 W=10
XBN1 BN BN VSS VSS sky130_fd_pr__nfet_01v8 L=1 W=8
XBN2 BP BN BRS VSS sky130_fd_pr__nfet_01v8 L=1 W=32
RBIAS BRS VSS 10k
RSTART VDD START 100meg
XSTOFF START BN VSS VSS sky130_fd_pr__nfet_01v8 L=2 W=1
XSTINJ BP START VSS VSS sky130_fd_pr__nfet_01v8 L=2 W=0.5

* Truly differential first stage; common-mode servo controls both PMOS loads.
XINP XP INP TAIL VSS sky130_fd_pr__nfet_01v8 L=0.8 W=40
XINN XN INN TAIL VSS sky130_fd_pr__nfet_01v8 L=0.8 W=40
XLP XP CMCTL VDD VDD sky130_fd_pr__pfet_01v8 L=0.8 W=40
XLN XN CMCTL VDD VDD sky130_fd_pr__pfet_01v8 L=0.8 W=40
XTAIL TAIL BN VSS VSS sky130_fd_pr__nfet_01v8 L=1 W=48

* Two matched common-source output stages.
XOP OUTP XP VSS VSS sky130_fd_pr__nfet_01v8 L=0.8 W=15
XON OUTN XN VSS VSS sky130_fd_pr__nfet_01v8 L=0.8 W=15
XIP OUTP BP VDD VDD sky130_fd_pr__pfet_01v8 L=1 W=100
XIN OUTN BP VDD VDD sky130_fd_pr__pfet_01v8 L=1 W=100
RZP XP CZP 2k
RZN XN CZN 2k
CCP CZP OUTP 4p
CCN CZN OUTN 4p

* Continuous-time common-mode feedback. CM rises -> CMCTL falls ->
* first-stage PMOS current rises -> XP/XN rise -> output CM falls.
RCMP OUTP CMSENSE 1meg
RCMN OUTN CMSENSE 1meg
XCMREF CMD VCM CMTAIL VSS sky130_fd_pr__nfet_01v8 L=1 W=10
XCMSENSE CMCTL CMIN CMTAIL VSS sky130_fd_pr__nfet_01v8 L=1 W=10
XCMPL CMD CMD VDD VDD sky130_fd_pr__pfet_01v8 L=1 W=10
XCMPM CMCTL CMD VDD VDD sky130_fd_pr__pfet_01v8 L=1 W=10
XCMT CMTAIL BN VSS VSS sky130_fd_pr__nfet_01v8 L=1 W=16
CCM CMCTL VSS 4p
VLOOP CMIN CMSENSE dc 0 ac 1
.ends sky130_v2_frontend

* Resistive fully-differential inverting-summing feedback gives overall
* positive differential gain RF/(RG+RSOURCE). Testbench sensor impedance
* is external; RG=9650 ohm compensates the specified 350 ohm per-leg source.
* No ideal gain source exists inside this subcircuit.
.subckt sky130_v2_pga VINP VINN OUTP OUTN VDD VSS VCM params: RF=40k RG=9650
RGP VINP INP {RG}
RGN VINN INN {RG}
RFP OUTN INP {RF}
RFN OUTP INN {RF}
XAMP INP INN OUTP OUTN VDD VSS VCM sky130_v2_frontend
.ends sky130_v2_pga
